US07897762B2
To a solution of quinolin-6-ylamine (5 g, 35 mmol) in conc. HCl (12 mL) was added dropwise an aqueous solution (4 mL) of NaNO2 (2.42 g, 35 mmol) at 0° C. The resulting mixture was stirred for 1 h and then treated dropwise with a solution of SnCl2.2H2O (15.8 g, 70 mmol) in conc. HCl (15 mL) at 0° C. The reaction mixture was stirred for 2 h at RT. The precipitate was collected and washed with EtOH and Et2O to yield 1-(quinolin-6-yl)hydrazine hydrochloride (4.3 g, 77% yield) as a yellow powder, which was used for the next reaction without further purification.

reactant | quinolin-6-ylamine | 35 mmol, 5 g | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
reactant | NaNO2 | 35 mmol, 4 mL, 2.42 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 70 mmol, 15.8 g | O.O.Cl[Sn]Cl
solvent | HCl | 12 mL | Cl | ClH
solvent | HCl | 15 mL | Cl | ClH
product | 1-(quinolin-6-yl)hydrazine hydrochloride | 4.3 g, 77% yield | Cl.N1=CC=CC2=CC(=CC=C12)NN | InChI=1S/C9H9N3.ClH/c10-12-8-3-4-9-7(6-8)2-1-5-11-9;/h1-6,12H,10H2;1H
